US08242130B2
To a solution of 2′-hydroxyacetophenone (0.68 g, 5 mmol) in 10 mL anhydrous pyridine was added 3,5-difluoro-4-methoxybenzoyl chloride (1.03 g, 5 mmol) and the reaction mixture was stirred at rt for 15 h under nitrogen atmosphere. The reaction mixture was poured into 100 mL 2N HCl. The solid was filtered off, washed with water and dried under vacuum to give a white solid (1.44 g, 94%). The compound (1.42 g, 4.63 mmol) was dissolved in 10 mL anhydrous pyridine. Powdered KOH (0.78 g, 13.9 mmol) was added and the reaction mixture was stirred at rt overnight under nitrogen. Water (50 mL) was added and the solid was isolated by filtration, and washed with water to give yellow solid (1.05 g, 74%). To a suspension of the yellow solid (0.82 g, 2.67 mmol) in 6 mL glacial AcOH was added 3 drops of conc. HCl and the reaction mixture was stirred at 110° C. for 2 h. The mixture was cooled to rt and 50 mL water was added. The solid was isolated by filtration, washed with water and dried under vacuum to give 2-(3,5-difluoro-4-methoxyphenyl)chromen-4-one as a white solid (0.61 g, 79%). 2-(3,5-Difluoro-4-methoxyphenyl)chromen-4-one was suspended in 15 mL hydroiodic acid. Glacial AcOH (6 mL) was added and the reaction mixture was stirred at 110° C. for 4 h. The mixture was cooled to rt. Water (100 mL) was added and the solid was isolated by filtration, washed with water and dried under vacuum. The crude compound was washed with 1:1 dichloromethane and MeOH (15 mL) to give 2-(3,5-difluoro-4-hydroxyphenyl)-4H-chromen-4-one (0.416 g, 73%) as a pale yellow solid. MS (ES) m/z: 275.04 (M+1); Mp. 275-276° C.

reactant | 2-(3,5-Difluoro-4-methoxyphenyl)chromen-4-one | FC=1C=C(C=C(C1OC)F)C=1OC2=CC=CC=C2C(C1)=O | C16H10F2O3
reactant | AcOH | 6 mL | CC(=O)O | C2H4O2
reactant | Water | 100 mL | O | H2O
solvent | hydroiodic acid | 15 mL | I | HI
product | 2-(3,5-difluoro-4-hydroxyphenyl)-4H-chromen-4-one | 0.416 g, 73% | FC=1C=C(C=C(C1O)F)C=1OC2=CC=CC=C2C(C1)=O | C15H8F2O3
